US04361563
(a) 5-Methyl-6-(3-amino-4-cyclopropylamino-phenyl)-3-oxo-4,5-dihydro-2H-pyridazine
5.8 gm of 5-methyl-6-(3-nitro-4-cyclopropylamino-phenyl)-3-oxo-4,5-dihydro-2H-pyridazine were hydrogenated in a mixture consisting of 100 ml of ethanol and of 20 ml of glacial acetic acid in the presence of 0.5 gm of 10% palladium charcoal at a hydrogen pressure of 5 bar. 120 ml of glacial acetic acid were added, the catalyst was filtered off and the filtrate was evaporated in vacuo. The residue was reacted further without further purification.

reactant | 5-methyl-6-(3-nitro-4-cyclopropylamino-phenyl)-3-oxo-4,5-dihydro-2H-pyridazine | 5.8 gm | CC1CC(NN=C1C1=CC(=C(C=C1)NC1CC1)[N+](=O)[O-])=O | C14H16N4O3
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | palladium charcoal | 0.5 gm | [Pd] | Pd
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 5-Methyl-6-(3-amino-4-cyclopropylamino-phenyl)-3-oxo-4,5-dihydro-2H-pyridazine | CC1CC(NN=C1C1=CC(=C(C=C1)NC1CC1)N)=O | C14H18N4O
